US05164403
A 64 g (350 mmol) sample of 2-bromobenzonitrile (Aldrich) was dissolved in 650 mL of xylene and treated with 22.75 g (350 mmol) of sodium azide and 95 mL (350 mmol) of tributyltin chloride at reflux for 48 h. The reaction was filtered; the filtrate was treated with 50 mL of anhydrous tetrahydrofuran (THF) and 20 g (550 mmol) of hydrogen chloride. The reaction was stirred for 2 h; filtration gave 59.6 g (76%) of 5-(2-bromophenyl)-1H-tetrazole: mp 178-180° C.; NMR (DMSO-d6) δ 7.50-7.64 (m, 2H), 7.67-7.74 (m, 1H), 7.83-7.91 (m, 1H). A 41.8 g (187 mmol) sample of this material was dissolved in 650 mL of methylene chloride and treated with 55.5 g (193 mmol) of triphenylmethyl chloride and 30 mL (220 mmol) of anhydrous triethylamine. The reaction was stirred overnight at reflux, cooled to ambient temperature, washed with water,

reactant | 2-bromobenzonitrile | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | sodium azide | 350 mmol, 22.75 g | [N-]=[N+]=[N-].[Na+]
reactant | tributyltin chloride | 350 mmol, 95 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | hydrogen chloride | 550 mmol, 20 g | Cl | ClH
solvent | xylene | 650 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 5-(2-bromophenyl)-1H-tetrazole | 59.6 g, 76% | BrC1=C(C=CC=C1)C1=NN=NN1 | C7H5BrN4
